US07314937B2
2-(4-n-Butyl-benzenesulfonyl)-7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline is prepared from 7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline dihydrochloride (175 mg, 0.5 mmol), NEt3 (0.25 mL, 1.8 mmol), and 4-(n-butyl)benzenesulfonyl chloride (140 mg, 0.60 mmol) via a procedure substantially analogous to Procedure F except that an additional SCX column purification step is performed to give the product (165 mg, 70% yld). MS(ES+)471.1(M+H)+.

reactant | 7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline dihydrochloride | 0.5 mmol, 175 mg | Cl.Cl.N1(CCCCC1)CCCOC1=CC=C2CCNCC2=C1
reactant | NEt3 | 1.8 mmol, 0.25 mL | CCN(CC)CC | C6H15N
reactant | 4-(n-butyl)benzenesulfonyl chloride | 0.60 mmol, 140 mg | C(CCC)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 2-(4-n-Butyl-benzenesulfonyl)-7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-isoquinoline | C(CCC)C1=CC=C(C=C1)S(=O)(=O)N1CC2=CC(=CC=C2CC1)OCCCN1CCCCC1 | C27H38N2O3S
